US04657579
In a sulphonation flask are dissolved 17.25 g sodium metal in 1000 ml absolute CH3OH. The reaction mixture is cooled to ambient temperature and then a solution of 116 g 4 -chloro-6-diethylamino-5-nitropyrimidine in 500 ml absolute CH3OH is added dropwise thereto. The reaction temperature rises from 22° to 32°. The reaction mixture is then heated for one hour under reflux. The reaction mixture is cooled and concentrated. The residue is taken up in diethylether, washed with water, the organic phase is partitioned off and dried over Na2SO4, concentrated, chromatographed on a silica gel column (elution with diethylether/hexane 1:10) to give a yellow, clear oil (4-diethylamino-6-methoxy-5-nitropyrimidine), Rf=0.3 in ether/hexane 1:3.

reactant | 4 -chloro-6-diethylamino-5-nitropyrimidine | 116 g | ClC1=NC=NC(=C1[N+](=O)[O-])N(CC)CC | C8H11ClN4O2
reactant | CH3OH | 1000 ml | CO | CH4O
reactant | CH3OH | 500 ml | CO | CH4O
solvent | sodium | 17.25 g | [Na] | Na
product | 4-diethylamino-6-methoxy-5-nitropyrimidine | C(C)N(C1=NC=NC(=C1[N+](=O)[O-])OC)CC | C9H14N4O3
